data/oMe_Silver.jsonl
{"reaction_id": "NR-317_1-C(C)(C)C_2-c1ccc2c(c1)OCO2","level": "medium","name": "Weinreb Ketone Synthesis","reactants_smiles": ["C(C)(C)C[Mg]Br","CON(C)C(=O)(c1ccc2c(c1)OCO2)","O"],"products_smiles": ["C(=O)(C(C)(C)C)(c1ccc2c(c1)OCO2)"],"conditions": "1. Grignard Reagent; 2. Aqueous workup","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(C)CC(c1ccc2c(c1)OCO2)(O[Mg-]1(Br))N(C)[O+]1C","step_weight": 0,"rationale": "The strongly nucleophilic Grignard carbon attacks the electrophilic carbonyl carbon, aided by the electron-withdrawing carbonyl and chelation of the methoxy amide to Mg, stabilizing the tetrahedral intermediate."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)(O)(c1ccc2c(c1)OCO2)N(C)OC","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide oxygen, driven by the high basicity of the alkoxide and the availability of protons in acidic or neutral aqueous conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)(O)(c1ccc2c(c1)OCO2)[NH+](C)OC","step_weight": 0,"rationale": "Protonation of the amide nitrogen increases its leaving group ability by generating a positively charged, resonance-stabilized ammonium species."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(C(C)(C)C)(c1ccc2c(c1)OCO2)","step_weight": 0,"rationale": "Elimination occurs as the protonated amine departs, driven by formation of the strong C=O π bond and the stability of the neutral amine leaving group."}],"description": "The Grignard reagent attacks the electrophilic carbonyl carbon of the Weinreb amide, forming a tetrahedral intermediate stabilized by chelation to magnesium. Proton transfers under aqueous workup prepare the intermediate for elimination of the amine, yielding the ketone selectively without over-addition."}
{"reaction_id": "NR-105_1-F_2-CC_3-c2ccc(OC)cc2_4-N2CCOCC2_5-C(C)(C)C","level": "medium","name": "Hemetsberger-Knittel Indole Synthesis","reactants_smiles": ["[N-]=[N+]=N/C(=C/c1c(N2CCOCC2)c(c2ccc(OC)cc2)c(CC)c(F)c1)\\C(=O)OC(C)(C)C"],"products_smiles": ["c1c(C(=O)OC(C)(C)C)[nH]c2c1c(N2CCOCC2)c(c2ccc(OC)cc2)c(CC)c2F"],"conditions": "Heat","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[N]/C(=C/c1c(N2CCOCC2)c(c2ccc(OC)cc2)c(CC)c(F)c1)\\C(=O)OC(C)(C)C","step_weight": 0,"rationale": "Thermal conditions promote loss of N₂ from the azide due to its excellent leaving group ability, generating an electron-deficient nitrene stabilized by conjugation with the alkene."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "C(C)(C)COC(=O)C1C=C2C(=[n]1)c(c(c(c2N2CCOCC2)c2ccc(OC)cc2)CC)F","step_weight": 0,"rationale": "The nitrene undergoes a 6π-electrocyclization driven by conjugation between the alkene and aromatic ring, forming the bicyclic indole skeleton under thermal control."},{"step": 3,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "c1c(C(=O)OC(C)(C)C)[nH]c2c1c(N2CCOCC2)c(c2ccc(OC)cc2)c(CC)c2F","step_weight": 0,"rationale": "A sigmatropic hydrogen shift restores aromaticity in the heterocycle, as aromatization provides strong thermodynamic driving force for the rearrangement."}],"description": "Upon heating, the azide undergoes nitrogen extrusion to form a reactive nitrene intermediate, which then cyclizes via electrocyclization to form the indole framework. A subsequent sigmatropic rearrangement aromatizes the ring, yielding the substituted indole product."}
